### PR TITLE
A number of `with` are not really needed

### PR DESCRIPTION
**Pull request by JacquesCarette**
Many many were actually closer to needed, so left alone.

Some `with` were made clearer (to be merely pattern matches, but ones that caused various things to reduce, so `with` was the better idiom to use).

Basically the only ones that were not touched were the ones in `Data.List.Base` !!

### CODE REVIEW

File: src/Data/Tree/AVL.agda [hunk 1]
```diff
@@ -92,13 +92,13 @@ module _ {v} {V : Value v} where
...
-  headTail (tree {h = suc _} t)    with Indexed.headTail t
-  ... | (k , _ , _ , t′) = just (k , tree (Indexed.castˡ ⊥⁺<[ _ ] t′))
+  headTail (tree {h = suc _} t) with (k , _ , _ , t′) ← Indexed.headTail t
+    = just (k , tree (Indexed.castˡ ⊥⁺<[ _ ] t′))
 
   initLast : Tree V → Maybe (Tree V × K& V)
   initLast (tree (Indexed.leaf _)) = nothing
-  initLast (tree {h = suc _} t)    with Indexed.initLast t
-  ... | (k , _ , _ , t′) = just (tree (Indexed.castʳ t′ [ _ ]<⊤⁺) , k)
+  initLast (tree {h = suc _} t) with (k , _ , _ , t′) ← Indexed.initLast t
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL.agda:100]: This can be turned into a `let`, surely?

File: src/Data/Vec.agda [hunk 2]
```diff
@@ -41,18 +42,14 @@ module _ {P : A → Set p} (P? : Decidable P) where
 
   filter : ∀ {n} → Vec A n → Vec≤ A n
   filter []       = Vec≤.[]
-  filter (a ∷ as) with does (P? a)
-  ... | true  = a Vec≤.∷ filter as
-  ... | false = ≤-cast (ℕ.n≤1+n _) (filter as)
+  filter (a ∷ as) = if does (P? a) then a Vec≤.∷_ else ≤-cast (ℕ.n≤1+n _) $ filter as
```
Comment (jamesmckinna) [inline src/Data/Vec.agda:45]: Hmmm. Clearly for you it is more readable to use `if_then_else_` at higher order, rather than `let` the recursive call in a first order expression... but my instincts/taste would make the opposite choice... and save the import from `Function.Base` for the sake of this one use. 

While my sympathies lie with most of this PR, I think that this choice goes against the ambient 'flavour' of `stdlib` programming (and not just my personal taste ;-))

File: src/Data/Vec/Base.agda [hunk 3]
```diff
@@ -232,9 +232,7 @@ sum = foldr _ _+_ 0
 
 count : ∀ {P : Pred A p} → Decidable P → Vec A n → ℕ
 count P? []       = zero
-count P? (x ∷ xs) with does (P? x)
-... | true  = suc (count P? xs)
-... | false = count P? xs
+count P? (x ∷ xs) = if does (P? x) then suc else id $ count P? xs
```
Comment (jamesmckinna) [inline src/Data/Vec/Base.agda:235]: Ditto.

File: src/Data/Vec/Membership/Setoid.agda [hunk 4]
```diff
@@ -52,8 +52,7 @@ module _ {p} {P : Pred A p} where
 
   find : ∀ {n} {xs : Vec A n} → Any P xs → ∃ λ x → x ∈ xs × P x
   find (here px)   = (_ , here refl , px)
-  find (there pxs) with find pxs
-  ... | (x , x∈xs , px) = (x , there x∈xs , px)
+  find (there pxs) = let (x , x∈xs , px) = find pxs in (x , there x∈xs , px)
```
Comment (jamesmckinna) [inline src/Data/Vec/Membership/Setoid.agda:55]: See as-yet-unmerged #2324 .

File: src/Text/Pretty/Core.agda [hunk 5]
```diff
@@ -142,8 +142,8 @@ private
 
     pad : Maybe String
     pad with x.lastWidth
-    ... | 0 = nothing
-    ... | l = just (replicate l ' ')
+    ... | 0         = nothing
```
Comment (jamesmckinna) [inline src/Text/Pretty/Core.agda:145]: What about `if (does (NonZero? x.lastWidth)) then nothing else...`? Or even, as above, a use of `case_of_` here? 

I was puzzled by your keeping this use of `with`... given the nature of this PR!?

File: src/Data/Tree/AVL.agda (hunk 1 above)
Comment (JacquesCarette) [reply src/Data/Tree/AVL.agda:100]: Yes, it can - but I'm not so sure that let is superior to irrefutable `with`. It makes no difference for complete, working code, but in a hole, things look quite different between the two. And let is bad in (current) Agda as it inlines eagerly (i.e. rather than saving on duplication, in Agda, it causes it!)

File: src/Data/Vec.agda (hunk 2 above)
Comment (JacquesCarette) [reply src/Data/Vec.agda:45]: Well, if `let` was implemented properly, I would probably use it more. While I happen to be rather fond of this higher-order pattern, I can easily be convinced to forgo this level of 'cuteness'.

File: src/Data/Vec/Membership/Setoid.agda (hunk 4 above)
Comment (JacquesCarette) [reply src/Data/Vec/Membership/Setoid.agda:55]: do notice that this is `Data.Vec.` and not `Data.List`. But yet, we've done the same change.

File: src/Text/Pretty/Core.agda (hunk 5 above)
Comment (JacquesCarette) [reply src/Text/Pretty/Core.agda:145]: This one is probably just a case of me being working on this file too late at night and just not seeing the obvious!

File: src/Data/Vec.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Data/Vec.agda:45]: Ah! I hadn't realised that `let` is problematic in that way... :-(

File: src/Text/Pretty/Core.agda (hunk 5 above)
Comment (jamesmckinna) [reply src/Text/Pretty/Core.agda:145]: Quite. (You are not alone...)

File: src/Data/Tree/AVL.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/Tree/AVL.agda:100]: Hopefully this will be fixed soon!?

File: src/Data/List/NonEmpty/Base.agda [hunk 6]
```diff
@@ -204,8 +204,7 @@ snocView (x ∷ .(xs List.∷ʳ y)) | xs List.∷ʳ′ y = (x ∷ xs) ∷ʳ′ y
 -- The last element in the list.
 
 last : List⁺ A → A
-last xs with snocView xs
-last .(ys ∷ʳ y) | ys ∷ʳ′ y = y
+last xs = case snocView xs of λ { (_ ∷ʳ′ y) → y}
```
Comment (jamesmckinna) [inline src/Data/List/NonEmpty/Base.agda:207]: What are the trade-offs between irrefutable `with` and using `case_of_` with a(n irrefutable) pattern-matching lambda?

File: src/Data/List/Relation/Unary/Enumerates/Setoid/Properties.agda [hunk 7]
```diff
@@ -40,8 +40,8 @@ module _ (S : Setoid a ℓ₁) (T : Setoid b ℓ₂) (surj : Surjection S T) whe
   open Surjection surj
 
   map⁺ : ∀ {xs} → IsEnumeration S xs → IsEnumeration T (map to xs)
-  map⁺ _∈xs y with strictlySurjective y
-  ... | (x , fx≈y) = ∈-resp-≈ T fx≈y (∈-map⁺ S T cong (x ∈xs))
+  map⁺ _∈xs y = case strictlySurjective y of
+                  λ where (x , fx≈y) → ∈-resp-≈ T fx≈y (∈-map⁺ S T cong (x ∈xs))
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Unary/Enumerates/Setoid/Properties.agda:44]: I'd be tempted to use irrefutable `with` here, or even `let`, because each choices intorduces less boilerplate than `case_of_` and a pattern-matching lambda?

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
I'm basically fine with this, but am not convinced that the `case_of_` versions are an improvement on balance, because of their verbosity relative to using irrefutable `with`.

But I'm willing to be persuaded otherwise!

File: src/Codata/Sized/Cowriter.agda [hunk 8]
```diff
@@ -113,6 +113,5 @@ _>>=_ : ∀ {i} → Cowriter W A i → (A → Cowriter W X i) → Cowriter W X i
 -- Construction.
 
 unfold : ∀ {i} → (X → (W × X) ⊎ A) → X → Cowriter W A i
-unfold next seed with next seed
-... | inj₁ (w , seed′) = w ∷ λ where .force → unfold next seed′
-... | inj₂ a           = [ a ]
+unfold next seed =
+  Sum.[ (λ {(w , seed′) → w ∷ λ where .force → unfold next seed′}) , [_] ] (next seed)
```
[the remark this answers is not in the document]
Comment (JacquesCarette) [reply src/Codata/Sized/Cowriter.agda:117]: Indeed - I've made that uniform.

File: src/Data/List/NonEmpty/Base.agda (hunk 6 above)
Comment (JacquesCarette) [reply src/Data/List/NonEmpty/Base.agda:207]: Not entirely sure. What I'd really want here is a projector for `_∷ʳ′_`. So I've done that, which makes it all much clearer. (Makes me wish we could `derive` projectors for single-constructor `data` automatically!)

File: src/Algebra/Construct/LexProduct.agda [hunk 9]
```diff
@@ -107,6 +107,4 @@ sel ∙-sel ◦-sel (a , x) (b , y) with (a ∙ b) ≟₁ a | (a ∙ b) ≟₁ b
 ... | no  ab≉a | no  ab≉b  = contradiction₂ (∙-sel a b) ab≉a ab≉b
 ... | yes ab≈a | no  _     = inj₁ (ab≈a , ≈₂-refl)
 ... | no  _    | yes ab≈b  = inj₂ (ab≈b , ≈₂-refl)
-... | yes ab≈a | yes ab≈b  with ◦-sel x y
-...   | inj₁ xy≈x = inj₁ (ab≈a , xy≈x)
-...   | inj₂ xy≈y = inj₂ (ab≈b , xy≈y)
+... | yes ab≈a | yes ab≈b  = map (ab≈a ,_) (ab≈b ,_) $ ◦-sel x y
```
Comment (jamesmckinna) [inline src/Algebra/Construct/LexProduct.agda:110]: Potato, aardappel...

I'd be content with `(◦-sel x y)` as the final argument, but I suppose this idiomatic usage displays that term (slightly?) more prominently. 
happy to leave as-is, but I tend to think such usage shines more when deployed with a multi-line equational proof as the trailing argument, where parentheses *do* clutter things up. 

No big deal here.

File: src/Algebra/Construct/NaturalChoice/MinOp.agda [hunk 10]
```diff
@@ -39,13 +39,13 @@ open import Relation.Binary.Reasoning.Preorder preorder
 
 x⊓y≤x : ∀ x y → x ⊓ y ≤ x
 x⊓y≤x x y with total x y
-... | inj₁ x≤y = ≤-respˡ-≈ (Eq.sym (x≤y⇒x⊓y≈x x≤y)) refl
+... | inj₁ x≤y = reflexive (x≤y⇒x⊓y≈x x≤y)
 ... | inj₂ y≤x = ≤-respˡ-≈ (Eq.sym (x≥y⇒x⊓y≈y y≤x)) y≤x
```
Comment (jamesmckinna) [inline src/Algebra/Construct/NaturalChoice/MinOp.agda:43]: I think I agree with your choice (as with L47-L48 below), but am also conscious that a certain *kind* of 'symmetry' has been lost between the two branches here. But on balance, happy with the 'improvement'. YMMV!

File: src/Data/Fin/Base.agda [hunk 11]
```diff
@@ -144,9 +144,7 @@ join m n = [ _↑ˡ n , m ↑ʳ_ ]′
 -- This is dual to group from Data.Vec.
 
 quotRem : ∀ n → Fin (m ℕ.* n) → Fin n × Fin m
-quotRem {suc m} n i with splitAt n i
-... | inj₁ j = j , zero
-... | inj₂ j = Product.map₂ suc (quotRem {m} n j)
+quotRem {suc m} n i = [ (_, zero) , Product.map₂ suc ∘ quotRem {m} n ]′ (splitAt n i)
```
Comment (jamesmckinna) [inline src/Data/Fin/Base.agda:147]: (Ironically, ...) would using `_$_` here make the separation between function and argument clearer in this expression?

File: src/Data/List/Fresh.agda [hunk 12]
```diff
@@ -161,29 +161,28 @@ module _ {P : Pred A p} (P? : U.Decidable P) where
   takeWhile-# : ∀ {R : Rel A r} a (as : List# A R) → a # as → a # takeWhile as
 
   takeWhile []             = []
-  takeWhile (cons a as ps) with does (P? a)
-  ... | true  = cons a (takeWhile as) (takeWhile-# a as ps)
-  ... | false = []
+  takeWhile (cons a as ps) =
+    if does (P? a) then cons a (takeWhile as) (takeWhile-# a as ps) else []
 
+  -- this 'with' is crucial to get things to reduce enough
```
Comment (jamesmckinna) [inline src/Data/List/Fresh.agda:167]: Which 'things'? Better, I think, for the comment to better 'earn' its place in the code, would be to spell out that you want (at least! but what else?) `takeWhile (a ∷# as)` to reduce in the *type* of this branch?

File: src/Data/List/Fresh/Relation/Unary/All.agda [hunk 13]
```diff
@@ -74,6 +75,5 @@ module _ {R : Rel A r} {P : Pred A p} {Q : Pred A q} where
 
   decide :  Π[ P ∪ Q ] → Π[ All {R = R} P ∪ Any Q ]
   decide p∪q [] = inj₁ []
-  decide p∪q (x ∷# xs) with p∪q x
-  ... | inj₂ qx = inj₂ (here qx)
-  ... | inj₁ px = Sum.map (px ∷_) there (decide p∪q xs)
+  decide p∪q (x ∷# xs) =
+    [ (λ px → Sum.map (px ∷_) there (decide p∪q xs)) , inj₂ ∘ here ]′ (p∪q x)
```
Comment (jamesmckinna) [inline src/Data/List/Fresh/Relation/Unary/All.agda:79]: `_$_` again, for (the reader's) parsing's sake?

File: src/Data/List/Kleene/Base.agda [hunk 14]
```diff
@@ -268,7 +266,7 @@ module _ (f : A → Maybe B → B) where
   foldrMaybe* []     = nothing
   foldrMaybe* (∹ xs) = just (foldrMaybe+ xs)
 
-  foldrMaybe+ xs = f (head xs) (foldrMaybe* (tail xs))
+  foldrMaybe+ (x & xs) = f x (foldrMaybe* xs)
```
Comment (jamesmckinna) [inline src/Data/List/Kleene/Base.agda:269]: Weird that it used to be otherwise, but perhaps the termination checker has improved for mutual definitions since the original code was written?

File: src/Data/List/NonEmpty/Base.agda [hunk 15]
```diff
@@ -203,9 +203,12 @@ snocView (x ∷ .(xs List.∷ʳ y)) | xs List.∷ʳ′ y = (x ∷ xs) ∷ʳ′ y
...
 -- The last element in the list.
 
+private
+  last′ : ∀ {l} → SnocView {A = A} l → A
+  last′ (_ ∷ʳ′ y) = y
+
 last : List⁺ A → A
-last xs with snocView xs
-last .(ys ∷ʳ y) | ys ∷ʳ′ y = y
+last = last′ ∘ snocView
```
Comment (jamesmckinna) [inline src/Data/List/NonEmpty/Base.agda:211]: I'd have been happy with irrefutable `with` (the us eof the dot pattern in the original is for 'commentary' purposes only, I think), but I take your (earlier) comment about (projections from) one-constructor datatypes

File: src/Data/List/Relation/Unary/Enumerates/Setoid/Properties.agda [hunk 16]
```diff
@@ -40,8 +40,8 @@ module _ (S : Setoid a ℓ₁) (T : Setoid b ℓ₂) (surj : Surjection S T) whe
   open Surjection surj
 
   map⁺ : ∀ {xs} → IsEnumeration S xs → IsEnumeration T (map to xs)
-  map⁺ _∈xs y with strictlySurjective y
-  ... | (x , fx≈y) = ∈-resp-≈ T fx≈y (∈-map⁺ S T cong (x ∈xs))
+  map⁺ _∈xs y with (x , fx≈y) ← strictlySurjective y =
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Unary/Enumerates/Setoid/Properties.agda:43]: Mostly, when matching on a tuple/record value in this style I *personally* think that the additional parentheses for the sake of (scoping) the pattern, are redundant and noisy... but I see that's a choice, and we don't have `style-guide` strictures to enforce.

File: src/Data/Star/Environment.agda [hunk 17]
```diff
@@ -43,5 +43,4 @@ Env T Γ = All T Γ
 -- A safe lookup function for environments.
 
 lookup : ∀ {Γ σ} {T : Ty → Set} → Env T Γ → Γ ∋ σ → T σ
-lookup ρ i with Pointer.lookup ρ i
-... | result refl x = x
+lookup ρ i = case Pointer.lookup ρ i of λ where (result refl x) → x
```
Comment (jamesmckinna) [inline src/Data/Star/Environment.agda:46]: Compare ...
```agda
lookup ρ i with result refl x ← Pointer.lookup ρ i = x
```
... I'd go with irrefutable `with` here!

File: src/Data/Star/Pointer.agda [hunk 18]
```diff
@@ -92,5 +92,5 @@ module _ {T : Rel I r} {P : EdgePred p T} {Q : EdgePred q T} where
 
   last : ∀ {i j} {xs : Star T i j} →
          Any P Q xs → NonEmptyEdgePred T Q
-  last ps with lookup {r = p} (decorate (const (lift tt)) _) ps
-  ... | result q _ = nonEmptyEdgePred q
+  last ps = case lookup {r = p} (decorate (const (lift tt)) _) ps of
+    λ where (result q _) → nonEmptyEdgePred q
```
Comment (jamesmckinna) [inline src/Data/Star/Pointer.agda:96]: Ditto.!

File: src/Data/Star/Vec.agda [hunk 19]
```diff
@@ -58,8 +58,7 @@ _++_ = _◅◅◅_
 -- Safe lookup.
 
 lookup : ∀ {n} → Vec A n → Fin n → A
-lookup xs i with Pointer.lookup xs i
-... | result _ x = x
+lookup xs i = case Pointer.lookup xs i of λ where (result _ x) → x
```
Comment (jamesmckinna) [inline src/Data/Star/Vec.agda:61]: And again...

File: src/Data/Tree/AVL.agda [hunk 20]
```diff
@@ -92,13 +92,13 @@ module _ {v} {V : Value v} where
 
   headTail : Tree V → Maybe (K& V × Tree V)
   headTail (tree (Indexed.leaf _)) = nothing
-  headTail (tree {h = suc _} t)    with Indexed.headTail t
-  ... | (k , _ , _ , t′) = just (k , tree (Indexed.castˡ ⊥⁺<[ _ ] t′))
+  headTail (tree {h = suc _} t) with (k , _ , _ , t′) ← Indexed.headTail t
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL.agda:95]: Redundant parentheses around the tuple

File: src/Data/Tree/AVL.agda (hunk 1 above)
Comment (jamesmckinna) [inline src/Data/Tree/AVL.agda:100]: Ditto re parentheses (sorry I didn't catch it last time!)

File: src/Data/Vec/Membership/Setoid.agda (hunk 4 above)
Comment (jamesmckinna) [inline src/Data/Vec/Membership/Setoid.agda:55]: Redundant parentheses, on LHS *and* RHS!

File: src/Relation/Binary/Construct/NaturalOrder/Left.agda [hunk 21]
```diff
@@ -58,9 +58,7 @@ antisym isEq comm {x} {y} x≤y y≤x = begin
   where open IsEquivalence isEq; open ≈-Reasoning (record { isEquivalence = isEq })
 
 total : Symmetric _≈_ → Transitive _≈_ → Selective _∙_ → Commutative _∙_ → Total _≤_
-total sym trans sel comm x y with sel x y
-... | inj₁ x∙y≈x = inj₁ (sym x∙y≈x)
-... | inj₂ x∙y≈y = inj₂ (sym (trans (comm y x) x∙y≈y))
+total sym trans sel comm x y = map sym (λ x∙y≈y → trans (sym x∙y≈y) (comm x y)) (sel x y)
```
Comment (jamesmckinna) [inline src/Relation/Binary/Construct/NaturalOrder/Left.agda:61]: `_$_` here? ;-)

File: src/Relation/Binary/Construct/NaturalOrder/Right.agda [hunk 22]
```diff
@@ -58,9 +58,8 @@ antisym isEq comm {x} {y} x≤y y≤x = begin
   where open ≈-Reasoning (record { isEquivalence = isEq })
 
 total : Symmetric _≈_ → Transitive _≈_ → Selective _∙_ → Commutative _∙_ → Total _≤_
-total sym trans sel comm x y with sel x y
-... | inj₁ x∙y≈x = inj₁ (trans (sym x∙y≈x) (comm x y) )
-... | inj₂ x∙y≈y = inj₂ (sym x∙y≈y)
+total sym trans sel comm x y =
+  map (λ x∙y≈x → trans (sym x∙y≈x) (comm x y)) sym (sel x y)
```
Comment (jamesmckinna) [inline src/Relation/Binary/Construct/NaturalOrder/Right.agda:62]: Ditto.?

**Review by jamesmckinna — APPROVED** [review]
Some (further) specimen comments, mostly stylistic, with no *mandatory* changes, but I would (*at least*!) consider them...

**Comment by JacquesCarette** [comment]
Considered all, I'll enact about 2/3 of them.

File: src/Algebra/Construct/LexProduct.agda (hunk 9 above)
Comment (JacquesCarette) [reply src/Algebra/Construct/LexProduct.agda:110]: Done

File: src/Data/Fin/Base.agda (hunk 11 above)
Comment (JacquesCarette) [reply src/Data/Fin/Base.agda:147]: Ironically yes.

File: src/Data/List/Fresh.agda (hunk 12 above)
Comment (JacquesCarette) [reply src/Data/List/Fresh.agda:167]: Agreed and fixed

File: src/Data/List/Relation/Unary/Enumerates/Setoid/Properties.agda (hunk 16 above)
Comment (JacquesCarette) [reply src/Data/List/Relation/Unary/Enumerates/Setoid/Properties.agda:43]: For some tuples, I do like the parens. But it's not a strongly held belief and I wouldn't fight pushing for such a style. But I'm going to leave this one as is.

File: src/Data/Star/Environment.agda (hunk 17 above)
Comment (JacquesCarette) [reply src/Data/Star/Environment.agda:46]: Yes, it does indeed improve things! Done.

File: src/Data/Vec/Membership/Setoid.agda (hunk 4 above)
Comment (JacquesCarette) [reply src/Data/Vec/Membership/Setoid.agda:55]: ok, this one I'll change.

File: src/Relation/Binary/Construct/NaturalOrder/Left.agda (hunk 21 above)
Comment (JacquesCarette) [reply src/Relation/Binary/Construct/NaturalOrder/Left.agda:61]: Nah, I think this one stays.

**Comment by jamesmckinna** [comment]
Looks good! 
can we have a second review from someone please?

File: src/Data/Fin/Base.agda [hunk 23]
```diff
@@ -144,9 +144,7 @@ join m n = [ _↑ˡ n , m ↑ʳ_ ]′
 -- This is dual to group from Data.Vec.
 
 quotRem : ∀ n → Fin (m ℕ.* n) → Fin n × Fin m
-quotRem {suc m} n i with splitAt n i
-... | inj₁ j = j , zero
-... | inj₂ j = Product.map₂ suc (quotRem {m} n j)
+quotRem {suc m} n i = [ (_, zero) , Product.map₂ suc ∘ quotRem {m} n ]′ $ splitAt n i
```
Comment (gallais) [inline src/Data/Fin/Base.agda:147]:
```suggestion
quotRem {suc m} n i =
  [ (_, zero)
  , Product.map₂ suc ∘ quotRem {m} n
  ]′ $ splitAt n i
```

File: src/Data/List/Fresh/Relation/Unary/All.agda [hunk 24]
```diff
@@ -74,6 +75,5 @@ module _ {R : Rel A r} {P : Pred A p} {Q : Pred A q} where
 
   decide :  Π[ P ∪ Q ] → Π[ All {R = R} P ∪ Any Q ]
   decide p∪q [] = inj₁ []
-  decide p∪q (x ∷# xs) with p∪q x
-  ... | inj₂ qx = inj₂ (here qx)
-  ... | inj₁ px = Sum.map (px ∷_) there (decide p∪q xs)
+  decide p∪q (x ∷# xs) =
+    [ (λ px → Sum.map (px ∷_) there (decide p∪q xs)) , inj₂ ∘ here ]′ $ p∪q x
```
Comment (gallais) [inline src/Data/List/Fresh/Relation/Unary/All.agda:79]:
```suggestion
    [ (λ px → Sum.map (px ∷_) there (decide p∪q xs))
    , inj₂ ∘ here
    ]′ $ p∪q x
```

**Comment by JacquesCarette** [comment]
Thanks for the suggestions @gallais those did noticeably improve readability.

**Review by gallais — APPROVED** [review]
